US07026339B2
A solution of 2-formylphenyl 4-(trifluoromethyl)benzenesulfonate (1.7 g, 5.1 mmol) in warm ethanol (100 mL) is added dropwise over 1 hour into a solution of hydrazine (6 equiv) in ethanol (5 mL). The reaction is stirred at room temperature overnight at which time the solvent is evaporated to dryness. The crude product is recrystallized from CH2Cl2/hexane to remove a dimer by-product. An 89% yield of 2-[hydrazonomethyl]phenyl 4-(trifluoromethyl)benzenesulfonate (4.65 g) is obtained.

reactant | 2-formylphenyl 4-(trifluoromethyl)benzenesulfonate | 5.1 mmol, 1.7 g | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C=O)(F)F | C14H9F3O4S
reactant | hydrazine | 6 equiv | NN | H4N2
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[hydrazonomethyl]phenyl 4-(trifluoromethyl)benzenesulfonate | 4.65 g, 89% yield | FC(C1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)C=NN)(F)F | C14H11F3N2O3S
